US04157399
40.2 g (0.33 mol) of benzoic acid are added to 100 milliliters of absolute benzene and, by cooling and stirring, 3.78 g (0.1 mol) of NaBH4 are added in portions sufficiently slowly for the temperature not to exceed 20° C. After the addition of 6.3 g (20 mmol) of 3-benzylamino-2-phenyl-benzo(b)thiophene the mixture is refluxed for 60 minutes. The still hot reaction mixture has added to it by stirring half a liter of water and is neutralised by ammonia. By evaporating the organic phase dried over K2CO3 and recrystallising the residue in ethanol, 5.1 g (41% of theory) of 3-dibenzylamino-2-phenyl-benzo(b)thiophene are obtained, colourless crystals, mp 98°-100° C.

reactant | benzoic acid | 0.33 mol, 40.2 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | NaBH4 | 0.1 mol, 3.78 g | [BH4-].[Na+]
reactant | 3-benzylamino-2-phenyl-benzo(b)thiophene | 20 mmol, 6.3 g | C(C1=CC=CC=C1)NC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2 | C21H17NS
reactant | ammonia | N | H3N
solvent | water | half a liter | O | H2O
solvent | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
product | 3-dibenzylamino-2-phenyl-benzo(b)thiophene | 5.1 g, 41% | C(C1=CC=CC=C1)N(C=1C2=C(SC1C1=CC=CC=C1)C=CC=C2)CC2=CC=CC=C2 | C28H23NS
